US07414061B2
b) 5-Cyclopropyl-3-phenyl-isoxazole-4-carboxylic acid
To a solution of 5-cyclopropyl-3-phenyl-isoxazole-4-carboxylic acid ethyl ester (408 mg, 1.58 mmol) in ethanol (4 mL) was added aqueous sodium hydroxide (1 N, 3.17 mL, 3.17 mmol) and the mixture was stirred for 3 h at 80° C. The ethanol was distilled off and the residue diluted with water (5 mL) and acified with aqueous HCl (1N) to pH=1. The resulting suspension was filtered off and washed with water affording the title compound (314 mg, 86%) as a white solid. MS: m/e=230.3[M+H]+.

reactant | 5-cyclopropyl-3-phenyl-isoxazole-4-carboxylic acid ethyl ester | 1.58 mmol, 408 mg | C(C)OC(=O)C=1C(=NOC1C1CC1)C1=CC=CC=C1 | C15H15NO3
reactant | sodium hydroxide | 3.17 mmol, 1 N, 3.17 mL | [OH-].[Na+]
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 5-Cyclopropyl-3-phenyl-isoxazole-4-carboxylic acid | C1(CC1)C1=C(C(=NO1)C1=CC=CC=C1)C(=O)O | C13H11NO3
